US09227976B2
Step 4: 3-(3-fluorophenyl)-4-(2-phenylethynyl)-1H-pyrazol-5-amine
A mixture of N-[3-(3-fluorophenyl)-4-(2-phenylethynyl)-1H-pyrazol-5-yl]acetamide (2 g, 6.2 mmol), ethanol (22 mL) and 25% aq. NaOH solution (22 mL) was stirred and heated to 80° C. for 1 h and cooled to room temperature. The reaction mixture was diluted with ethyl acetate and water. The organic phase was washed with water and brine, dried (phase separator cartridge) and concentrated in vacuo, to provide the title compound as a solid (1.2 g).

reactant | N-[3-(3-fluorophenyl)-4-(2-phenylethynyl)-1H-pyrazol-5-yl]acetamide | 6.2 mmol, 2 g | FC=1C=C(C=CC1)C1=NNC(=C1C#CC1=CC=CC=C1)NC(C)=O | C19H14FN3O
reactant | ethanol | 22 mL | C(C)O | C2H6O
reactant | NaOH | 22 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(3-fluorophenyl)-4-(2-phenylethynyl)-1H-pyrazol-5-amine | 1.2 g | FC=1C=C(C=CC1)C1=NNC(=C1C#CC1=CC=CC=C1)N | C17H12FN3
